US07153854B2
To a solution of methyl 2-bromo-4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]benzoate (330 mg) in N,N-dimethylformamide (5 mL) was added 60% sodium hydride in oil (58.4 mg) in an ice-bath over 5 miutes. After stirring for 1 hour, (aminooxy)(diphenyl)phosphine oxide (340 mg) was added portionwise over 40 minutes. The resulting mixture was stirred for 1 hour in the bath. The reaction was quenched by adding water (10 mL). The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (two times) and brine, dried over magnesium sulfate, and evaporated. The residue was dissolved in ethyl acetatec-hexane (1-5), and to the solution was added silicagel. The mixture was filtered, and the filtrate was evaporated to give methyl 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]-2-bromobenzoate as an orange solid (310 mg).

reactant | methyl 2-bromo-4-[(5-ethyl-1H-pyrrol-2-yl)carbonyl]benzoate | 330 mg | BrC1=C(C(=O)OC)C=CC(=C1)C(=O)C=1NC(=CC1)CC | C15H14BrNO3
reactant | sodium hydride | [H-].[Na+]
reactant | (aminooxy)(diphenyl)phosphine oxide | 340 mg | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]-2-bromobenzoate | 310 mg | NN1C(=CC=C1CC)C(=O)C1=CC(=C(C(=O)OC)C=C1)Br | C15H15BrN2O3
